.include TSMC_180nm.txt
.param LAMBDA=0.09u
.param width_P=20*LAMBDA
.param width_N=10*LAMBDA
.global gnd vdd
Vdd vdd gnd 1.8

Va a gnd pulse 0 1.8 0ns 100ps 100ps 20ns 40ns
Vb b gnd pulse 0 1.8 0ns 100ps 100ps 40ns 80ns

.option scale=90n

M1000 vdd b g_comp w_n25_20# CMOSP w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
M1001 gnd b a_n19_n13# gnd CMOSN w=20 l=2
+  ad=0.24n pd=64u as=100p ps=50u
M1002 gnd b p_comp gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=60p ps=32u
M1003 p_comp a gnd gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=60p ps=32u
M1004 g_comp a a_n19_n13# gnd CMOSN w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
M1005 a_61_26# b vdd w_47_20# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.24n ps=92u
M1006 p_comp a a_61_26# w_47_20# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.24n ps=92u
M1007 g_comp a vdd w_n25_20# CMOSP w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
C0 a g_comp 0.00121f
C1 vdd g_comp 0.03107f
C2 a_61_26# p_comp 0.12376f
C3 w_47_20# a_61_26# 0.01716f
C4 w_47_20# p_comp 0.00896f
C5 w_n25_20# b 0.02467f
C6 b p_comp 0.01103f
C7 w_47_20# b 0.02491f
C8 w_n25_20# a 0.02467f
C9 a p_comp 0.01083f
C10 b a_n19_n13# 0.00121f
C11 w_n25_20# vdd 0.01383f
C12 w_47_20# a 0.02469f
C13 a a_n19_n13# 0.00226f
C14 w_47_20# vdd 0.0084f
C15 w_n25_20# g_comp 0.01317f
C16 b vdd 0.0055f
C17 a vdd 0.0055f
C18 gnd 0 0.38664f 
C19 a_n19_n13# 0 0.15614f 
C20 p_comp 0 0.24611f 
C21 a_61_26# 0 0.02892f 
C22 g_comp 0 0.10581f 
C23 vdd 0 0.23883f 
C24 a 0 0.95569f 
C25 b 0 0.71868f 
C26 w_47_20# 0 3.29041f 
C27 w_n25_20# 0 1.7356f 


.tran 10p 200n
.control
run
set curplottitle = 'A.Pranav_2024102038'
set color0 = white
set color1=black
set linewidth=10
plot v(g_comp) v(p_comp)+2 v(b)+4 v(a)+6
.endc