.include TSMC_180nm.txt
.param LAMBDA=0.09u
.param width_P=20*LAMBDA
.param width_N=10*LAMBDA
.global gnd vdd
Vdd vdd gnd 1.8

Va a gnd pulse 0 1.8 0ns 100ps 100ps 20ns 40ns
Vb b gnd pulse 0 1.8 0ns 100ps 100ps 40ns 80ns

.option scale=90n

* SPICE3 file created from xor.ext - technology: scmos

.option scale=90n

M1000 q q_comp vdd w_63_n51# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=100p ps=50u
M1001 b_comp b vdd w_n18_n11# CMOSP w=20 l=2
+  ad=100p pd=50u as=100p ps=50u
M1002 vdd a a_comp w_n18_n11# CMOSP w=20 l=2
+  ad=100p pd=50u as=100p ps=50u
M1003 gnd a a_comp gnd CMOSN w=10 l=2
+  ad=50p pd=30u as=50p ps=30u
M1004 b_comp b gnd gnd CMOSN w=10 l=2
+  ad=50p pd=30u as=50p ps=30u
M1005 q_comp b_comp a_comp gnd CMOSN w=20 l=2
+  ad=60p pd=26u as=100p ps=50u
M1006 q q_comp gnd gnd CMOSN w=10 l=2
+  ad=80p pd=36u as=55p ps=32u
M1007 a b q_comp gnd CMOSN w=20 l=2
+  ad=0.16n pd=56u as=60p ps=26u
C0 gnd a_comp 0.04826f
C1 w_n18_n11# b 0.02471f
C2 w_n18_n11# b_comp 0.00869f
C3 q q_comp 0.04365f
C4 q_comp w_63_n51# 0.02488f
C5 q_comp a_comp 0.34915f
C6 a a_comp 0.00327f
C7 b a 0.00264f
C8 w_63_n51# vdd 0.00598f
C9 q_comp gnd 0.02955f
C10 w_n18_n11# a 0.02467f
C11 b vdd 0.50237f
C12 q w_63_n51# 0.00792f
C13 w_n18_n11# vdd 0.01305f
C14 q_comp a 0.02753f
C15 b b_comp 0.06098f
C16 q_comp vdd 0.00182f
C17 a vdd 0.10064f
C18 w_n18_n11# a_comp 0.00804f
C19 q 0 0.05785f 
C20 q_comp 0 0.36367f 
C21 vdd 0 0.42839f 
C22 a_comp 0 0.42959f 
C23 b_comp 0 0.29509f 
C24 b 0 0.39807f 
C25 a 0 1.64363f 
C26 w_63_n51# 0 0.96422f 
C27 w_n18_n11# 0 1.28563f 



.tran 10p 200n
.control
run
set curplottitle = 'A.Pranav_2024102038'
set color0 = white
set color1=black
set linewidth=10
plot v(q) v(b)+2 v(a)+4
.endc